US06469005B1
41 ml of a 30% solution of sodium methylate in methanol are added to a solution of 31.5 g (180 mmol) N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-formamide in 880 ml methanol. 48.1 g (184 mmol) toluene-4-sulfonic acid pent-2-ynyl ester are added and the mixture is refluxed for 4 hours. After evaporation the residue is taken up in ethyl acetate and washed with water. After evaporation the residue is submitted to flash-chromatography and crystallisation in ether to give the N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-formamide.

reactant | sodium methylate | C[O-].[Na+]
reactant | N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-formamide | 180 mmol, 31.5 g | OC1=C(C=C(C=C1)CCNC=O)OC | C10H13NO3
reactant | toluene-4-sulfonic acid pent-2-ynyl ester | 184 mmol, 48.1 g | C(C#CCC)OS(=O)(=O)C1=CC=C(C=C1)C | C12H14O3S
solvent | methanol | CO | CH4O
solvent | methanol | 880 ml | CO | CH4O
product | N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-formamide | COC=1C=C(C=CC1OCC#CCC)CCNC=O | C15H19NO3
